US04155913
0.75 g of 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol is dissolved in 25 ml of absolute chloroform and there is added thereto 0.7 g of triethylamine and 0.6 g of methanesulphochloride. The mixture is stirred for 2.5 hours at 25° C., then washed twice with water and twice with saturated sodium chloride solution, dried over sodium sulphate and evaporated. The resulting oily methanesulphonic acid ester of 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol is dissolved in 10 ml of dimethylformamide and the solution added dropwise at 0°-5° C. to a solution of 1 ml of liquid ammonia in 5 ml of dimethylformamide. The mixture is stirred for 2 hours at room temperature and then partitioned between saturated sodium chloride solution and methylene chloride. The organic phase is dried and evaporated and the residue recrystallized from ethanol. There is obtained 9-aminomethyl-2-chloro- 4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine of melting point 190°-192° C.

reactant | 2-chloro-4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine-9-methanol | 0.75 g | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)CO)C3=C(C=CC=C3)Cl | C15H10Cl2N4OS
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-aminomethyl-2-chloro- 4-(o-chlorophenyl)-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | NCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)Cl | C15H11Cl2N5S
